US07582629B2
2-[4-(Difluoromethoxy)benzyl]-4-{[4-(difluoromethoxy)phenyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide
4-Chloro-2-[4-(difluoromethoxy)benzyl]-5-phenylisothiazol-3(2H)-one 1,1-dioxide (80 mg, 0.2 mmol) and 4-(difluoromethoxy)-aniline (64 mg, 0.4 mmol) were mixed in MeCN (2 mL).

reactant | 4-Chloro-2-[4-(difluoromethoxy)benzyl]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.2 mmol, 80 mg | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CC1=CC=C(C=C1)OC(F)F)=O | C17H12ClF2NO4S
reactant | 4-(difluoromethoxy)-aniline | 0.4 mmol, 64 mg | FC(OC1=CC=C(N)C=C1)F | C7H7F2NO
solvent | MeCN | 2 mL | CC#N | C2H3N
product | 2-[4-(Difluoromethoxy)benzyl]-4-{[4-(difluoromethoxy)phenyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide | FC(OC1=CC=C(CN2S(C(=C(C2=O)NC2=CC=C(C=C2)OC(F)F)C2=CC=CC=C2)(=O)=O)C=C1)F | C24H18F4N2O5S
